US07060844B2
To a solution of phthalide (2.0 g, 14.9 mmol) in THF (60.0 ml) at −78° C. was added 1.0M LiHMDS/THF (15.7 ml) over 10 minutes. The reaction was stirred for 15 minutes at −78° C. and then the ice bath was removed. The reaction was quenched into dry ice using a cannula and then allowed to warm to room temperature. After adding 40 ml hexane, the cloudy mixture was rotary evaporated and chased with hexane to give lithium 3-oxo-1,3-dihydro-2-benzofuran-1-carboxylate as a yellow solid (2.86 g, 100%).

reactant | phthalide | 14.9 mmol, 2.0 g | C1(=O)OCC2=CC=CC=C12 | C8H6O2
reactant | LiHMDS THF | 1.0M, 15.7 ml | [Li+].C[Si](C)(C)[N-][Si](C)(C)C.C1CCOC1
reactant | THF | 60.0 ml | C1CCOC1 | C4H8O
product | lithium 3-oxo-1,3-dihydro-2-benzofuran-1-carboxylate | 2.86 g, 100% | O=C1OC(C2=C1C=CC=C2)C(=O)[O-].[Li+] | InChI=1S/C9H6O4.Li/c10-8(11)7-5-3-1-2-4-6(5)9(12)13-7;/h1-4,7H,(H,10,11);/q;+1/p-1
